US09193710B2
Methyl 3-(3-cyanophenyl)-3-oxopropanoate
Into a three-necked flask equipped with an argon inlet and a condenser were placed sodium hydride (60%, 689.5 mg, 17.23 mmol), dimethyl carbonate (1.55 g, 17.23 mmol) and 15 mL of toluene. The mixture was stirred under reflux and a solution of 3-acetylbenzonitrile (1.0 g, 6.19 mmol) in toluene (15 mL) was added drop wise. The reaction mixture was stirred at 100° C. for 2 h. The reaction mixture was monitored by LCMS and purified by column chromatography on silica gel eluted with 0-10% of ethyl acetate in petroleum ether to give the product (1.2 g, 86%).

reactant | sodium hydride | 17.23 mmol, 689.5 mg | [H-].[Na+]
reactant | dimethyl carbonate | 17.23 mmol, 1.55 g | C(OC)(OC)=O | C3H6O3
reactant | 3-acetylbenzonitrile | 6.19 mmol, 1.0 g | C(C)(=O)C=1C=C(C#N)C=CC1 | C9H7NO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-(3-cyanophenyl)-3-oxopropanoate | 1.2 g, 86% | C(#N)C=1C=C(C=CC1)C(CC(=O)OC)=O | C11H9NO3
